US05532349
In 88.7 ml of dimethylsulfoxide, 25.2 g of 5-trifluoromethyl-5,6-dihydrouracil was dissolved and 3.47 g of iodine and 0.76 ml of concentrated sulfuric acid were added to the solution to obtain a uniform solution. The obtained solution was stirred at 140° C. for 6 hours, and then cooled to room temperature, followed by adding 150 g of 3% aqueous sodium sulfite solution to reduce iodine. The resulting mixture was concentrated under reduced pressure. After adding water to the residue, the residue was extracted three times with ethyl acetate. The ethyl acetate layer was concentrated and the residue was recrystallized from 1.00 ml of water to obtain 21.9 g (88%) of 5-trifluoromethyluracil as white needle-shaped crystals.

reactant | 5-trifluoromethyl-5,6-dihydrouracil | 25.2 g | FC(C1C(NC(NC1)=O)=O)(F)F | C5H5F3N2O2
reactant | iodine | 3.47 g | II | I2
reactant | sulfuric acid | 0.76 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium sulfite | 150 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethylsulfoxide | 88.7 ml | CS(=O)C | C2H6OS
product | 5-trifluoromethyluracil | 21.9 g, 88% | FC(C=1C(NC(NC1)=O)=O)(F)F | C5H3F3N2O2
